US06933311B2
N-(4-bromobenzyl)-2-(5-isoquinolinyl)propanamide
The title compound was prepared using the procedure described in Example 222B using 4-bromobenzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 371, 369 (M+H)+; MS (ESI−) m/z 369, 367 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.57 (d, J 7.1, 3H), 4.23 (d, J 6.1, 2H), 4.63 (q, J 7.1, 1H), 7.14 (m, 2H), 7.47 (m, 2H), 7.76 (m, 1H), 7.98 (t, J 7.5, 1H), 8.17 (d, J 7.1, 1H), 8.43 (d, J 7.8, 1H), 8.69 (br s, 1H), 8.74 (d, J 6.8, 1H), 8.92 (t, J 5.8, 1H), 9.88 (s, 1H); Anal. Calcd for C19H17BrN2O+1.4 HCl: C, 54.30; H, 4.41; N, 6.66. Found: C, 54.49; H, 4.28; N, 6.75.

reactant | 4-bromobenzylamine | BrC1=CC=C(CN)C=C1 | C7H8BrN
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-(4-bromobenzyl)-2-(5-isoquinolinyl)propanamide | BrC1=CC=C(CNC(C(C)C2=C3C=CN=CC3=CC=C2)=O)C=C1 | C19H17BrN2O
